US06723722B1
A solution of (3S)-1,3-bis(tert-butoxycarbonylamino)-2-pyrrolidone (3.15 g) in methanol (10 ml) was combined with a 4N solution of hydrochloric acid in ethyl acetate (20 ml) and stirred at room temperature for 30 minutes. The reaction mixture was concentrated, and the resultant residue was combined with dichloromethane (30 ml) and triethylamine (6.06 g), and then with di-tert-butyl dicarbonate (2.62 g) at 0° C. and stirred at room temperature for 1 hour. The reaction mixture was combined with an aqueous solution of sodium carbonate, extracted with dichloromethane, dried and concentrated. The residue obtained was washed with hexane to obtain (3S)-1-amino-3-(tert-butoxycarbonylamino)-2-pyrrolidone (1.89 g) as a colorless solid.

reactant | (3S)-1,3-bis(tert-butoxycarbonylamino)-2-pyrrolidone | 3.15 g | C(C)(C)(C)OC(=O)NN1C([C@H](CC1)NC(=O)OC(C)(C)C)=O | C14H25N3O5
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (3S)-1-amino-3-(tert-butoxycarbonylamino)-2-pyrrolidone | 1.89 g | NN1C([C@H](CC1)NC(=O)OC(C)(C)C)=O | C9H17N3O3
